US04798897
To 5.77 g of N-ethyl-N-(2-hydroxyethyl)-5-isoquinolinesulfonamide were added 100 ml of pyridine and 4.0 g of p-toluenesulfonyl chloride. The mixture thus obtained was heated at 80° C. for 48 hours, and then the pyridine was removed under reduced pressure to obtain a residue. To the residue was added 100 ml of dichloromethane, and the resultant mixture was washed thrice with a hydrochloric acid solution having a pH of 5 and dried with anhydrous magnesium sulfate. Then, the dichloromethane was removed under reduced pressure to obtain a residue. The residue was subjected to purification by silica gel column chromatography (Wacogel C-200, solvent: a 5% methanol solution in chloroform) to obtain 3.96 g of N-ethyl-N-(2-p-toluenesulfonyloxyethyl)-5-isoquinolinesulfonamide.

reactant | N-ethyl-N-(2-hydroxyethyl)-5-isoquinolinesulfonamide | 5.77 g | C(C)N(S(=O)(=O)C=1C=2C=CN=CC2C=CC1)CCO | C13H16N2O3S
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 4.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-ethyl-N-(2-p-toluenesulfonyloxyethyl)-5-isoquinolinesulfonamide | 3.96 g | C(C)N(S(=O)(=O)C=1C=2C=CN=CC2C=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C20H22N2O5S2
